US04395547
5-Acetyl-4-methyl-2-ethylimidazole
To 4.78 g (0.037 moles) of 3-oximino-2,4-pentanedione dissolved in 40 ml of acetonitrile was added 3.82 g (0.037 moles) of 2-aminobutyric acid. The mixture was brought to reflux, while stirring rapidly under nitrogen, with an oil bath. After 22.5 h the reaction mixture was cooled, suction filtered, and the residue washed with acetonitrile (50 ml). The combined filtrates were concentrated in vacuo, and the resulting oil dissolved in 1 M hydrochloric acid (30 ml). The acid solution was washed with methylene chloride (4×20 ml), then neutralized with solid potassium carbonate. Extraction with methylene chloride, followed by drying over anhydrous potassium carbonate and concentration in vacuo furnished 0.021 moles (67.8%) yield based on recovered d,l-norvaline) of 5-acetyl-2-ethyl-4-methylimidazole.

reactant | 3-oximino-2,4-pentanedione | 0.037 moles, 4.78 g | N(O)=C(C(C)=O)C(C)=O | C5H7NO3
reactant | 2-aminobutyric acid | 0.037 moles, 3.82 g | NC(C(=O)O)CC | C4H9NO2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 5-Acetyl-4-methyl-2-ethylimidazole | C(C)(=O)C1=C(N=C(N1)CC)C | C8H12N2O
